US04079051
A solution of 21 parts of the sodium salt of 1,4-diaminobenzene-6-sulphonic acid in 100 parts of water is stirred with a neutral solution of 24.5 parts of (4,6-dichloro-s-triazin-2-yl)-phosphoramide-acid in 200 parts by volume of H2O at 20° to 40° C, whilst constantly neutralising the hydrochloric acid liberated to keep the pH at 6 to 7, until a sample, on diazotisation and coupling with 1-hydroxynaphthalene-4-sulphonic acid, gives a clear, yellowish-tinged red dyeing. After addition of ice, the resulting dyestuff intermediate product is directly diazotised with 7 parts of sodium nitrite and 28 parts of concentrated hydrochloric acid and subsequently combined with a previously prepared solution of 47 parts of the sodium salt of 1-benzoylamino-8-hydroxynaphthalene-3,6-disulphonic acid and 12 parts of sodium carbonate in 200 parts of water, whereupon coupling to give 4-chloro-6-(3'-sulpho-4'-[1"-benzoylamino-2"-hydroxy-3",6"-disulphonaphthyl-7"-azo]-phenylamino)-s-triazine-2-phosphoramide-acid takes place; the latter is salted-out, filtered off, washed and dried in vacuo at 40° to 50° C. The dyestuff readily dissolves in water to give a red colour and gives, by one of the processes described, clear bluish-tinged red dyeings and prints on cellulose materials.

reactant | sodium | [Na] | Na
reactant | 1,4-diaminobenzene-6-sulphonic acid | NC1=CC=C(C=C1S(=O)(=O)O)N | C6H8N2O3S
reactant | hydrochloric acid | Cl | ClH
reactant | H2O | O | H2O
product | 1-hydroxynaphthalene-4-sulphonic acid | OC1=CC=C(C2=CC=CC=C12)S(=O)(=O)O | C10H8O4S
